US07365095B2
A solution of (8-bromo-6-fluoro-2H-chromen-2-yl)methyl 4-methylbenzenesulfonate (300 mg, 0.73 mmol) in absolute ethanol was added to 5% sulfided platinum on carbon (50 mg) and the mixture hydrogenated at 55 psi of hydrogen for 1 hour. The mixture was then filtered through celite and the filtrate concentrated under reduced pressure to afford a white semi-solid. Purification by flash chromatography using a solvent gradient of 5 to 25% ethyl acetate in hexane gave 148 mg (49%) of (8-bromo-6-fluoro-3,4-dihydro-2H-chromen-2-yl)methyl 4-methylbenzenesulfonate as a white solid.

reactant | (8-bromo-6-fluoro-2H-chromen-2-yl)methyl 4-methylbenzenesulfonate | 0.73 mmol, 300 mg | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C=C(C=C2C=C1)F)Br | C17H14BrFO4S
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
catalyst | sulfided platinum on carbon | 50 mg | [Pt] | Pt
product | (8-bromo-6-fluoro-3,4-dihydro-2H-chromen-2-yl)methyl 4-methylbenzenesulfonate | 148 mg, 49% | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C=C(C=C2CC1)F)Br | C17H16BrFO4S
